US07812022B2
Step E: 2,6-difluoro-N-[3-(3-{5-fluoro-2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide (title compound)
A solution 4-[2-(3-bromophenyl)pyrazolo[1,5-a]pyridin-3-yl]-5-fluoro-N-(3-fluorophenyl)-2-pyrimidinamine (40 mg, 84 mmol), Pd2(dba)3 (15.3 mg, 0.016 mmol), xantphos (14.5 mg, 0.025 mmol), Cs2CO3 (95 mg, 0.29 mmol), and 2,6-difluorobenzamide (39 mg, 0.25 mmol) in anhydrous 1,4-dioxane, that had been previously degassed with nitrogen, was heated at 160° C. in the microwave for 15 min. At this time, the crude reaction was adsorbed to silica gel and purified by LC (DCM to 5% MeOH/DCM) to afford the product (28.3 mg, 61%) as a white solid. ESIMS (M+H)+=555. 1H NMR (400 MHz, DMSO-d6) δ 6.63-6.67 (m, 1H), 7.09-7.24 (m, 4H), 7.29-7.49 (m, 3H), 7.54-7.61 (m, 1H), 7.68-7.72 (m, 1H), 7.81 (s, 1H), 7.90-7.94 (m, 1H), 8.04 (m, 1H), 8.09 (m, 1H), 8.53-8.54 (m, 1H), 8.87-8.89 (m, 1H), 9.91 (s, 1H), 10.84 (s, 1H); ESIMS (M+H)+=555.

reactant | 4-[2-(3-bromophenyl)pyrazolo[1,5-a]pyridin-3-yl]-5-fluoro-N-(3-fluorophenyl)-2-pyrimidinamine | 84 mmol, 40 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1F)NC1=CC(=CC=C1)F | C23H14BrF2N5
reactant | xantphos | 0.025 mmol, 14.5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.29 mmol, 95 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,6-difluorobenzamide | 0.25 mmol, 39 mg | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.016 mmol, 15.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,6-difluoro-N-[3-(3-{5-fluoro-2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide | 28.3 mg, 61% | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2F)NC2=CC(=CC=C2)F)C(=CC=C1)F | C30H18F4N6O
